US08471005B2
N-tert-Butyl-3-[2-(1H-indazol-5-ylamino)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-benzenesulfonamide
Following the procedure of Example 1311c, N-tert-butyl-3-(2-hydroxy-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-benzenesulfonamide (225 mg, 0.650 mmol) was coupled in parallel fashion with 1H-indazol-5-ylamine (36 mg, 0.27 mmol), [1-methyl-1H-indazol-6-ylamine (43 mg, 0.29 mmol), and 1-methyl-1H-indazol-5-ylamine (41 mg, 0.28 mmol). After evaporation of solvent, residues were purified with ISCO chromatography unit outfitted with a 12 g silica gel column and eluted with a gradient of DCM/MeOH to afford titled products. Yield: 38 mg (13%); LC/MS: 462 (M+H); HPLC: 97% pure, RT=3.11 min; 1H NMR: (DMSO, δ) 12.92 (s, 1H), 9.55 (s, 1H), 9.04 (s, 1H), 8.49 (m, 2H), 8.25 (s, 1H), 8.02 (s, 1H), 7.88 (d, J=8.2, 1H), 7.77 (t, J=8.2, 1H), 7.61 (m, 2H), 7.51 (d, J=8.7, 1H), 7.18 (d, J=4.7, 1H), 6.99 (d, J=4.7, 1H), 1.10 (s, 9H).

reactant | N-tert-butyl-3-(2-hydroxy-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-benzenesulfonamide | 0.650 mmol, 225 mg | C(C)(C)(C)NS(=O)(=O)C1=CC(=CC=C1)C1=CC=C2C=NC(=NN21)O | C16H18N4O3S
reactant | 1H-indazol-5-ylamine | 0.27 mmol, 36 mg | N1N=CC2=CC(=CC=C12)N | C7H7N3
reactant | 1-methyl-1H-indazol-6-ylamine | 0.29 mmol, 43 mg | CN1N=CC2=CC=C(C=C12)N | C8H9N3
reactant | 1-methyl-1H-indazol-5-ylamine | 0.28 mmol, 41 mg | CN1N=CC2=CC(=CC=C12)N | C8H9N3
product | N-tert-Butyl-3-[2-(1H-indazol-5-ylamino)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-benzenesulfonamide | C(C)(C)(C)NS(=O)(=O)C1=CC(=CC=C1)C1=CC=C2C=NC(=NN21)NC=2C=C1C=NNC1=CC2 | C23H23N7O2S
